US08119666B2
B. 4-Benzyloxy-7-methylindan-5-carbaldehyde
To a solution of 4-benzyloxy-5-bromo-7-methylindan (5.87 g, 19.4 mmol) in THF (75 mL) at −78° C. is added dropwise n-BuLi (1.6 M in hexane, 13.3 mL, 21.3 mmol) and it is stirred at −78° C. for 1.5 h. DMF (freshly distilled from CaH2, 29 mL, 0.38 mol) is added dropwise and it is stirred at −78° C. for 4 h before slowly warmed to ambient temperature and stirred for 18 h. EtOAc is added and it is washed with 1N HCl and brine, dried and concentrated. The residue is purified by flash chromatography to give the title compound as a light yellow solid.

reactant | 4-benzyloxy-5-bromo-7-methylindan | 19.4 mmol, 5.87 g | C(C1=CC=CC=C1)OC1=C2CCCC2=C(C=C1Br)C | C17H17BrO
reactant | n-BuLi | 21.3 mmol, 1.6 M, 13.3 mL | [Li]CCCC
reactant | THF | 75 mL | C1CCOC1 | C4H8O
product | 4-Benzyloxy-7-methylindan-5-carbaldehyde | C(C1=CC=CC=C1)OC1=C2CCCC2=C(C=C1C=O)C | C18H18O2
